US08067445B2
Step 4: 2-(2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 2-[4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester and 2-bromo-5-(trifluoromethyl)benzaldehyde.

reactant | 2-[4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)C1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C18H27BO5
reactant | 2-bromo-5-(trifluoromethyl)benzaldehyde | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
product | 2-(2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-propionic acid ethyl ester | C(C)OC(C(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C20H19F3O4
